US08466186B2
(c) tert-Butyl 5-aminomethyl-2-trifluoromethyl-phenylcarbamate
A mixture of tert-butyl 5-cyano-2-trifluoromethyl-phenylcarbamate (8.5 g; 29.7 mmol), Ra—Ni (174 mg; 2.97 mmol) and THF (60 mL) was stirred under H2-atmosphere (5 atm) overnight at rt. The mixture was filtered through celite and the celite pad was washed with THF and EtOAc. Concentration gave the sub-title compound which was used in the next step without further purification. Yield: 8 g (93%).

reactant | tert-butyl 5-cyano-2-trifluoromethyl-phenylcarbamate | 29.7 mmol, 8.5 g | C(#N)C=1C=CC(=C(C1)NC(OC(C)(C)C)=O)C(F)(F)F | C13H13F3N2O2
catalyst | Ra—Ni | 2.97 mmol, 174 mg | [Ni] | Ni
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | tert-Butyl 5-aminomethyl-2-trifluoromethyl-phenylcarbamate | NCC=1C=CC(=C(C1)NC(OC(C)(C)C)=O)C(F)(F)F | C13H17F3N2O2
